US08957070B2
3-(2-{7-[Methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)propanoic acid
A mixture of ethyl 3-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)propanate (3.58 g), 2N aqueous sodium hydroxide solution (10.0 mL), tetrahydrofuran (10 mL) and methanol (10 mL) was stirred at 60° C. for 1 hr. The reaction mixture was concentrated, and water was added to the residue. The mixture was acidified with 10% aqueous citric acid solution, and the resulting crystals were filtrated, washed with water, and dried to give the title compound (3.34 g, yield 99%) as pale-yellow crystals. melting point 234-235° C.

reactant | ethyl 3-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)propanate | 3.58 g | CN(C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CCC(=O)OCC)S(=O)(=O)C=1SC=CC1 | C21H21N3O4S3
reactant | sodium hydroxide | 2N, 10.0 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | 3-(2-{7-[Methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)propanoic acid | 3.34 g, yield 99% | CN(C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CCC(=O)O)S(=O)(=O)C=1SC=CC1 | C19H17N3O4S3
